US04636382
A mixture of 22.7 grams (0.1 mole) of 3-(4-propyl-heptyl)morpholine, 6.4 grams (0.11 moles) trimethyleneoxide and 150 ml. 96% ethanol was kept at 150°-200° C. for 15 hours in an autoclave. Distillation of the reaction mixture gave 24.6 g (86%) of 3-(4-propyl-heptyl)-4-(3-hydroxypropyl)morpholine), boiling point 122°-124° C./0.01 mm Hg.

reactant | 3-(4-propyl-heptyl)morpholine | 0.1 mole, 22.7 grams | C(CC)C(CCCC1NCCOC1)CCC | C14H29NO
reactant | trimethyleneoxide | 0.11 moles, 6.4 grams | C1CCO1 | C3H6O
solvent | ethanol | C(C)O | C2H6O
product | 3-(4-propyl-heptyl)-4-(3-hydroxypropyl)morpholine | 24.6 g, 86% | C(CC)C(CCCC1N(CCOC1)CCCO)CCC | C17H35NO2
